US08048909B2
1-(2,3-Dihydro-1,4-benzodioxin-5-ylsulfonyl)-4-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde
Using 4-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde (185 mg), sodium hydride (60% in oil, 116 mg), 15-crown-5 (881 mg) and 2,3-dihydro-1,4-benzodioxine-5-sulfonyl chloride (516 mg), a procedure as in Reference Example 219 was performed to give the title compound as a pale-yellow amorphous (yield 295 mg, 77%).

reactant | 4-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde | 185 mg | CC=1C(=CNC1C1=CC=CC=C1)C=O | C12H11NO
reactant | sodium hydride | 116 mg | [H-].[Na+]
reactant | 15-crown-5 | 881 mg | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 2,3-dihydro-1,4-benzodioxine-5-sulfonyl chloride | 516 mg | O1CCOC2=C1C=CC=C2S(=O)(=O)Cl | C8H7ClO4S
product | 1-(2,3-Dihydro-1,4-benzodioxin-5-ylsulfonyl)-4-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde | O1CCOC2=C1C=CC=C2S(=O)(=O)N2C=C(C(=C2C2=CC=CC=C2)C)C=O | C20H17NO5S
